US06313344B1
g) 2-[[[(1-Methyl-2-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-[ethoxyimino]-ethylidene)amino]oxy]methyl]-α-(methoxyimino)-phenylacetic acid methylamide
3 ml of a 8M solution of methylamine in ethanol are added to 2.9 g of 2-[[[(1-methyl-2-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-[ethoxyimino]ethylidene) amino]oxy]-methyl]-α-(methoxyimino)-phenylacetic acid methyl ester in 30 ml of methanol and stirring is carried out for 2 days at room temperature. The reaction mixture is concentrated to dryness by evaporation. Recrystallisation of the residue from hexane yields the title compound having a melting point of 88-90° C. (compound 5.23).

reactant | methylamine | CN | CH5N
reactant | 2-[[[(1-methyl-2-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-[ethoxyimino]ethylidene) amino]oxy]-methyl]-α-(methoxyimino)-phenylacetic acid methyl ester | 2.9 g | COC(C(=NOC)C1=C(C=CC=C1)CON=C(C(C1=CC=C(C=C1)OC[Si](C1=CC=C(C=C1)F)(C)C)=NOCC)C)=O | C31H36FN3O6Si
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 30 ml | CO | CH4O
product | 2-[[[(1-Methyl-2-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-[ethoxyimino]-ethylidene)amino]oxy]methyl]-α-(methoxyimino)-phenylacetic acid methylamide | CNC(C(=NOC)C1=C(C=CC=C1)CON=C(C(C1=CC=C(C=C1)OC[Si](C1=CC=C(C=C1)F)(C)C)=NOCC)C)=O | C31H37FN4O5Si
